US04959381
4-Amino-3-chloro-α-[[[5-(2-phenylethoxy)pentyl](phenylmethyl)amino]methyl]-5-(trifluoromethyl)benzenemethanol
1-[4-Amino-3-chloro-5-(trifluoromethyl)phenyl]-2-bromoethanone (0.55 g), N-[5-(2-phenylethoxy)pentyl]benzenemethanamine (0.52 g) and N,N-diisopropylethylamine (0.25 g) were stirred in tetrahydrofuran (15 ml) at room temperature under nitrogen for 40 h. The mixture was filtered and the filtrate evaporated in vacuo. The residue was dissolved in methanol (20 ml) and sodium borohydride (0.18 g) was added portionwise to the stirred solution at 0° under nitrogen. The mixture was left to stand at room temperature under nitrogen overnight, 2N hydrochloric acid (10 ml) added and the solvent evaporated in vacuo. The residue was partitioned between 8% sodium bicarbonate (100 ml) and ethyl acetate (100 ml), the organic phase separated, dried and evaporated in vacuo to give an oil. Purification by FCC on triethylamine deactivated silica (Merck 9385) eluting with cyclohexane-ethyl acetate (9:1) gave the title compound as a colourless oil (0.5 g).

reactant | 1-[4-Amino-3-chloro-5-(trifluoromethyl)phenyl]-2-bromoethanone | 0.55 g | NC1=C(C=C(C=C1C(F)(F)F)C(CBr)=O)Cl | C9H6BrClF3NO
reactant | N-[5-(2-phenylethoxy)pentyl]benzenemethanamine | 0.52 g | C1(=CC=CC=C1)CCOCCCCCNCC1=CC=CC=C1 | C20H27NO
reactant | N,N-diisopropylethylamine | 0.25 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-Amino-3-chloro-α-[[[5-(2-phenylethoxy)pentyl](phenylmethyl)amino]methyl]-5-(trifluoromethyl)benzenemethanol | 0.5 g | NC1=C(C=C(C=C1C(F)(F)F)C(O)CN(CC1=CC=CC=C1)CCCCCOCCC1=CC=CC=C1)Cl | C29H34ClF3N2O2
